US08580777B2
B. (S)-6-Amino-2-[((9S,12R)-9-isopropyl-11-oxo-2,7-dioxa-10-azabicyclo[12.2.2]octadeca-1(17),14(18),15-trien-12-ylsulfamoyl)amino]hexanoic acid
A solution of 78 mg (0.114 mmol) of tert-butyl (S)-6-tert-butoxycarbonylamino-2-[((9S,12R)-9-isopropyl-11-oxo-2,7-dioxa-10-azabicyclo[12.2.2]octadeca-1(17),14(18),15-trien-12-ylsulfamoyl)amino]hexanoate in 3 ml of dichloromethane/TFA (1:1, v/v) was left to stand at RT for 2 h and then concentrated. The crude product was purified by prep. HPLC. The required fractions were combined and freeze dried after addition of 1N hydrochloric acid. 34 mg of the title compound were obtained as hydrochloride. LC/MS (method F): Rt=2.97 min, m/z: 529.23 [MH+].

reactant | tert-butyl (S)-6-tert-butoxycarbonylamino-2-[((9S,12R)-9-isopropyl-11-oxo-2,7-dioxa-10-azabicyclo[12.2.2]octadeca-1(17),14(18),15-trien-12-ylsulfamoyl)amino]hexanoate | 0.114 mmol, 78 mg | C(C)(C)(C)OC(=O)NCCCC[C@@H](C(=O)OC(C)(C)C)NS(N[C@H]1C(N[C@H](COCCCCOC=2C=CC(C1)=CC2)C(C)C)=O)(=O)=O | C33H56N4O9S
solvent | dichloromethane TFA | 3 ml | ClCCl.C(=O)(C(F)(F)F)O
product | (S)-6-Amino-2-[((9S,12R)-9-isopropyl-11-oxo-2,7-dioxa-10-azabicyclo[12.2.2]octadeca-1(17),14(18),15-trien-12-ylsulfamoyl)amino]hexanoic acid | 34 mg | NCCCC[C@@H](C(=O)O)NS(N[C@H]1C(N[C@H](COCCCCOC=2C=CC(C1)=CC2)C(C)C)=O)(=O)=O | C24H40N4O7S
